US05679791
Preparation of N-[(4-Fluoro-3-nitrophenyl)carbamoyl]glycine, ethyl ester
A solution of 4-fluoro-3-nitrophenyl isocyanate (10 g, 0.055 mol) in anhydrous tetrahydrofuran is cooled to 0° C., treated with glycine ethyl ester hydrochloride (7.7 g, 0.052 mol), treated with triethylamine (5.56 g, 0.055 mol) while maintaining the temperature below 10° C., stirred at room temperature for 1 hour and poured into water. The aqueous mixture is extracted with ether. The combined organic extracts are washed sequentially with 1N hydrochloric acid and brine, dried over anhydrous. magnesium sulfate, and concentrated in vacuo to obtain a solid which is air-dried to give the title product as a yellow solid (8.8 g, mp 115°-120° C.).

reactant | 4-fluoro-3-nitrophenyl isocyanate | 0.055 mol, 10 g | FC1=C(C=C(C=C1)N=C=O)[N+](=O)[O-] | C7H3FN2O3
reactant | glycine ethyl ester hydrochloride | 0.052 mol, 7.7 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 0.055 mol, 5.56 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[(4-Fluoro-3-nitrophenyl)carbamoyl]glycine, ethyl ester | 8.8 g | FC1=C(C=C(C=C1)NC(=O)NCC(=O)OCC)[N+](=O)[O-] | C11H12FN3O5
